US05409930
To 3-cyclohexylethynyl-6,7-dimethoxyquinoline (215 mg; 0.73 mmol) in 10 mL CH3OH and 20 mL glacial acetic acid is added 22 mg 10% Pd/C. H2 is bubbled through the reaction mixture and then filtered, evaporated to dryness and diluted with distilled water. This is then neutralized with Na2CO3, extracted with EtOAc, washed with brine, dried (MgSO4), evaporated to dryness and chromatographed with 8:2/hexane: EtOAc to obtain 3-cyclohexylethyl-6,7-dimethoxyquinoline.

reactant | 3-cyclohexylethynyl-6,7-dimethoxyquinoline | 0.73 mmol, 215 mg | C1(CCCCC1)C#CC=1C=NC2=CC(=C(C=C2C1)OC)OC | C19H21NO2
solvent | CH3OH | 10 mL | CO | CH4O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 22 mg | [Pd] | Pd
product | 3-cyclohexylethyl-6,7-dimethoxyquinoline | C1(CCCCC1)CCC=1C=NC2=CC(=C(C=C2C1)OC)OC | C19H25NO2
